US09102614B2
Step 5: Preparation of (S)-ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-3-methyl-6-(pyridin-4-yl)naphthalen-2-yl)acetate:
A solution of (S)-ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-3-methyl-6-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate (0.060 g, 0.11 mmol), pyridin-4-ylboronic acid (0.020 g, 0.16 mmol), and Pd(PPh3)4 (0.012 g, 0.011 mmol) in DME (1 mL) was treated with 2 M K2CO3 (0.16 mL, 0.32 mmol) and sparged with Ar for 10 min. Following microwave heating at 110° C. for 20 min, the reaction mixture was absorbed onto silica gel in vacuo and purified by Yamazen column chromatography (15-100% EtOAc/Hex) to afford 0.043 g (82%) as a colorless glass. LCMS-ESI+ (m/z): [M+H]+ calcd for C30H31ClNO3: 488.20; found: 488.70.

reactant | (S)-ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-3-methyl-6-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate | 0.11 mmol, 0.060 g | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=C(C=C2C=C1C)OS(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)Cl | C26H26ClF3O6S
reactant | pyridin-4-ylboronic acid | 0.16 mmol, 0.020 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | K2CO3 | 0.32 mmol, 2 M, 0.16 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | DME | 1 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.011 mmol, 0.012 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-3-methyl-6-(pyridin-4-yl)naphthalen-2-yl)acetate | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=C(C=C2C=C1C)C1=CC=NC=C1)C1=CC=C(C=C1)Cl | C30H30ClNO3
